US07241791B2
Step 2: 4-[3-(4-hydroxyphenyl)-1-propyl-1H-indazole-7-yl]phenol
Prepared according to Method D step C from 7-(4-methoxyphenyl)-3-(4-methoxy-phenyl)-1-propyl-1H-indazole (0.04 g, 0.11 mmol), boron tribromide (0.04 mL, 0.43 mmol) and 0.1 mL of cyclohexene to give the product (0.029 g) as an light yellow solid.

reactant | 7-(4-methoxyphenyl)-3-(4-methoxy-phenyl)-1-propyl-1H-indazole | 0.11 mmol, 0.04 g | COC1=CC=C(C=C1)C=1C=CC=C2C(=NN(C12)CCC)C1=CC=C(C=C1)OC | C24H24N2O2
reactant | boron tribromide | 0.43 mmol, 0.04 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 0.1 mL | C1=CCCCC1 | C6H10
product | 4-[3-(4-hydroxyphenyl)-1-propyl-1H-indazole-7-yl]phenol | 0.029 g | OC1=CC=C(C=C1)C1=NN(C2=C(C=CC=C12)C1=CC=C(C=C1)O)CCC | C22H20N2O2
